* c:\users\91990\appdata\roaming\spb_data\esim-workspace\2b_dac_a\2b_dac_a.cir

.lib "sky130_fd_pr/models/sky130.lib.spice" tt
.include Switch_A.sub

x1 vdd d0 net-_r1-pad2_ net-_r2-pad2_ net-_x1-pad5_ Switch_A
x2 vdd d0 net-_r3-pad2_ vrefl net-_x2-pad5_ Switch_A
x3 vdd d1 net-_x1-pad5_ net-_x2-pad5_ vout Switch_A

r1  vrefh net-_r1-pad2_ 250
r2  net-_r1-pad2_ net-_r2-pad2_ 250
r3  net-_r2-pad2_ net-_r3-pad2_ 250
r4  net-_r3-pad2_  vrefl 250

vdd vdd 0 3.3
vrefh vrefh 0 3.3
vrefl vrefl 0 0
vd0 d0 0 pulse(0 1.8 0s 0s 0s 5us 10us)
vd1 d1 0 pulse(0 1.8 0s 0s 0s 10us 20us)

.tran 0.1us 20us
.control
run

plot v(d0) v(d1)  V(vout)
.endc
.end
